US09062068B2
2,4,5-trichloropyrimidine (16.7 g, 91.0 mmol) was added to a tared, sealed flask and weighed. The oil was dissolved in 54 mL THF and cooled to 0° C. 1M aqueous NaOH solution (182 mL, 182 mmol) was added dropwise via an addition funnel, keeping the reaction at 0° C. This was allowed to warm to room temperature and concentrated to remove THF. Additional water was added to maintain dissolution. The pH was adjusted to 6 with a small quantity of HCl, and the aqueous was washed 3 times with ethyl acetate. The pH was then brought below 1 with more HCl, and extracted six times with ethyl acetate. This layer was washed with brine and dried over sodium sulfate. Product solution was filtered, concentrated, and dried on the high vacuum to give 14.1 g of 2,5-dichloropyrimidin-4-ol as an oil (96%).

reactant | 2,4,5-trichloropyrimidine | 91.0 mmol, 16.7 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | NaOH | 182 mmol, 1M, 182 mL | [OH-].[Na+]
solvent | THF | 54 mL | C1CCOC1 | C4H8O
product | 2,5-dichloropyrimidin-4-ol | 14.1 g, 96% | ClC1=NC=C(C(=N1)O)Cl | C4H2Cl2N2O
